US08008334B2
4-(6,7-Dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)benzonitrile
A solution of 4 mmol of 4-(7-hydroxyl-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)benzonitrile and 8 mmol of thionyl chloride in 30 ml of chloroform is heated at reflux for 15 hours. The reaction mixture is cooled to room temperature and poured into saturated sodium hydrogen carbonate solution. The phases are separated and the organic phase is washed with brine, dried with sodium sulphate and evaporated. From the residue the title compound is obtained by means of flash chromatography (SiO2 60F).

reactant | 4-(7-hydroxyl-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)benzonitrile | 4 mmol | OC1(CCN2C=NC=C21)C2=CC=C(C#N)C=C2 | C13H11N3O
reactant | thionyl chloride | 8 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(6,7-Dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)benzonitrile | C1=C2N(C=N1)CCC2C2=CC=C(C#N)C=C2 | C13H11N3
